US08729271B2
N-[(2-Bromopyridin-4-yl)methyl]-N-cyclobutyl-1-methyl-1H-1,2,4-triazole-3-carboxamide
Sodium hydride (186 mg) was added to a solution of N-[(2-bromopyridin-4-yl)methyl]-N-cyclobutyl-1H-1,2,4-triazole-3-carboxamide (1.3 g) in dimethylformamide (10 mL), and the mixture was stirred at room temperature for 15 min. Methyl iodide (0.25 mL) was added thereto and the mixture was stirred at room temperature for 17.5 hr. Saturated aqueous sodium hydrogen carbonate solution and water were added to the reaction mixture, followed by extraction with ethyl acetate, and the solvent was distilled off under reduced pressure. The resulting residue was purified by column chromatography (NH silica gel cartridge, hexane:ethyl acetate=75:25-0:100) to afford the title compound (748 mg).

reactant | Sodium hydride | 186 mg | [H-].[Na+]
reactant | N-[(2-bromopyridin-4-yl)methyl]-N-cyclobutyl-1H-1,2,4-triazole-3-carboxamide | 1.3 g | BrC1=NC=CC(=C1)CN(C(=O)C1=NNC=N1)C1CCC1 | C13H14BrN5O
reactant | Methyl iodide | 0.25 mL | CI | CH3I
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[(2-Bromopyridin-4-yl)methyl]-N-cyclobutyl-1-methyl-1H-1,2,4-triazole-3-carboxamide | 748 mg | BrC1=NC=CC(=C1)CN(C(=O)C1=NN(C=N1)C)C1CCC1 | C14H16BrN5O
